US07897619B2
To a solution of 6-ethynylisoquinoline (0.10 g, 0.65 mmol) in 6.5 mL of THF at −78° C. was added LiHMDS, (0.78 mL, 1.0 M in THF). After 5 minutes, the mixture was warmed to 0° C. The mixture was stirred for 30 minutes and then chilled to −78° C. Tosyl cyanide (0.18 g, 0.98 mmol) was added. After 5 minutes, the reaction was warmed to 0° C. and stirred for 1 hour. The reaction was quenched with 10 mL of aq. NH4Cl. The biphasic mixture was extracted twice with 10 mL of EtOAc and the combined organic extracts were washed with 15 mL of brine and dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (5% to 20% EtOAc/hexanes) afforded 3-(isoquinolin-6-yl)propiolonitrile (0.065 g, 0.36 mmol, 56% yield) as a white solid.

reactant | 6-ethynylisoquinoline | 0.65 mmol, 0.10 g | C(#C)C=1C=C2C=CN=CC2=CC1 | C11H7N
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Tosyl cyanide | 0.98 mmol, 0.18 g | S(=O)(=O)(C1=CC=C(C)C=C1)C#N | C8H7NO2S
solvent | THF | 6.5 mL | C1CCOC1 | C4H8O
product | 3-(isoquinolin-6-yl)propiolonitrile | 0.36 mmol, 0.065 g, 56% yield | C1=NC=CC2=CC(=CC=C12)C#CC#N | C12H6N2
